US07897607B2
1-(2,4-Dimetylphenyl)-4-(heptan-4-yl)-6-(hydroxymethyl)-1H-imidazo[4,5-b]pyridin-7(4H)-one
To 0.14 g (0.29 mmol) of 1-(2,4-dimethylphenyl)-4-(heptan-4-yl)-7-oxo-4,7-dihydro-1H-imidazo[4,5-b]pyridine-6-carboxylic acid in 5 mL of THF was added 0.15 mL (1.1 mmol) of triethylamine and 0.10 mL (1.0 mmol) of ethyl chloroformate. The resulting yellow slurry was stirred at room temperature for 40 min. The crude carbonate solution was then added to 0.135 g (3.6 mmol) of sodium borohydride in 5 mL of ethanol at room temperature and the resulting mixture was stirred for 30 min. The reaction was concentrated in vacuo, diluted with water and extracted with chloroform. The combined extracts were washed with brine, dried over sodium sulfate, filtered and the resulting filtrate was concentrated in vacuo. The crude material thus obtained was purified by flash chromatography eluting with a 3% methanol/dichloromethane mixture to give 45 mg of the title compound as a white solid. Dirty fractions were combined, concentrated and purified to give an additional 23 mg of the title compound. The overall yield of the title compound was 68 mg (65%).

reactant | 1-(2,4-dimethylphenyl)-4-(heptan-4-yl)-7-oxo-4,7-dihydro-1H-imidazo[4,5-b]pyridine-6-carboxylic acid | 0.29 mmol, 0.14 g | CC1=C(C=CC(=C1)C)N1C=NC=2N(C=C(C(C21)=O)C(=O)O)C(CCC)CCC | C22H27N3O3
reactant | triethylamine | 1.1 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.0 mmol, 0.10 mL | ClC(=O)OCC | C3H5ClO2
reactant | carbonate | C([O-])([O-])=O
reactant | sodium borohydride | 3.6 mmol, 0.135 g | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(2,4-Dimetylphenyl)-4-(heptan-4-yl)-6-(hydroxymethyl)-1H-imidazo[4,5-b]pyridin-7(4H)-one | 45 mg | CC1=C(C=CC(=C1)C)N1C=NC=2N(C=C(C(C21)=O)CO)C(CCC)CCC | C22H29N3O2
